US07855297B2
By the reaction and treatment in the same manner as in Example 106 using N-[(4-dimethylaminophenyl)methyl]-5-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.66 g) and (5,6-dihydroimidazo[2,1-b]thiazol-3-yl)methyl chloride (0.38 g) as starting materials, 5-[(5,6-dihydroimidazo[2,1-b]thiazol-3-yl)methoxy]-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.16 g) was obtained.

reactant | N-[(4-dimethylaminophenyl)methyl]-5-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.66 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=C(C=CC=C12)O)C1=CC=C(C=C1)C(C)C)C | C29H34N2O2
reactant | (5,6-dihydroimidazo[2,1-b]thiazol-3-yl)methyl chloride | 0.38 g | S1C=2N(C(=C1)CCl)CCN2 | C6H7ClN2S
product | 5-[(5,6-dihydroimidazo[2,1-b]thiazol-3-yl)methoxy]-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.16 g | S1C=2N(C(=C1)COC1=C3CCCC(C3=CC=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC1=CC=C(C=C1)N(C)C)CCN2 | C35H40N4O2S
